US07141351B2
In a nitrogen atmosphere, a mixture of 112 g of 2-(1H-imidazol-1-yl)ethanol, synthesized in Synthesis Example 1, 156 g of methyl methoxyacetate, 3.0 g of sodium methoxide, and 200 g of toluene was heated under reflux for 20 hours while distilling off the methanol formed during the reaction. The solvent was distilled off in vacuo. Purification by vacuum distillation gave 166 g of 2-(1H-imidazol-1-yl)ethyl methoxyacetate (boiling point 126° C./27 Pa, yield 90%).

reactant | 2-(1H-imidazol-1-yl)ethanol | 112 g | N1(C=NC=C1)CCO | C5H8N2O
reactant | methyl methoxyacetate | 156 g | COCC(=O)OC | C4H8O3
catalyst | sodium methoxide | 3.0 g | C[O-].[Na+]
solvent | toluene | 200 g | C1(=CC=CC=C1)C | C7H8
product | 2-(1H-imidazol-1-yl)ethyl methoxyacetate | 166 g, yield 90% | COCC(=O)OCCN1C=NC=C1 | C8H12N2O3
